2151-10-30 08:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2151-10-29**] 04:00 PM
 LUMBAR PUNCTURE - At [**2151-10-29**] 10:45 PM
 LUMBAR PUNCTURE - At [**2151-10-30**] 01:59 AM
   - found cell phone with pt's belongings and called family, pt's name is
   [**Name (NI) 10643**] [**Known lastname **] or [**Last Name (un) 10644**] [**Name (NI) **]. Has son in [**Name (NI) 1198**] wife in [**Name (NI) 23**] called [**Name (NI) **]
   [**Telephone/Fax (1) 10645**]; she has just been d/c'd from hospital and will come in
   today
   - called Pharmacy in [**Location (un) 1204**] for med list pt only on Allopurinol
   - LP performed
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2151-10-29**] 04:21 PM
   Levofloxacin - [**2151-10-29**] 05:02 PM
   Ampicillin - [**2151-10-30**] 02:08 AM
   Ceftriaxone - [**2151-10-30**] 06:55 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-10-30**] 01:06 AM
   Fosphenytoin - [**2151-10-30**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-10-30**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 73 (64 - 96) bpm
   BP: 104/60(70) {77/49(55) - 138/84(107)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.6 kg (admission): 98.8 kg
             Total In:
                                                                  1,228 mL
                                                                  1,546 mL
   PO:
             TF:
   IVF:
                                                                  1,228 mL
                                                                  1,546 mL
   Blood products:
   Total out:
                                                                    565 mL
                                                                  1,130 mL
   Urine:
                                                                    565 mL
                                                                  1,030 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    663 mL
                                                                    416 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 674 (623 - 674) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.32/42/118/23/-4
   Ve: 10.2 L/min
   PaO2 / FiO2: 236
   Physical Examination
   Cardiovascular: Gen: intubated, sedated.  responds minimally to pain.
   does not respond to command.
   CV: RRR, nl S1 and S2
   Lungs: CTAB
   Abd: NT/ NT ABS
   Ext: 1+ edema bilaterally
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   14.2 g/dL
   108 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   28 mg/dL
   105 mEq/L
   137 mEq/L
   43.5 %
   12.0 K/uL
        [image002.jpg]
                             [**2151-10-29**]  05:47 PM
                             [**2151-10-29**]  06:24 PM
                            [**2151-10-30**]  03:06 AM
   WBC
   16.6
   12.0
   Hct
   44.6
   43.5
   Plt
   235
   202
   Cr
   1.2
   1.3
   TropT
   0.14
   0.27
   TCO2
   23
   Glucose
   146
   108
   Other labs: PT / PTT / INR:12.2/27.7/1.0, CK / CKMB /
   Troponin-T:451/18/0.27, Differential-Neuts:81.4 %, Lymph:9.0 %,
   Mono:7.7 %, Eos:1.4 %, Lactic Acid:1.4 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Cardiac enzymes
   [**2151-10-30**] 03:06AM    18* 4.0 0.27*1
   [**2151-10-29**] 06:24PM    15* 3.9 0.14*2
   [**2151-10-29**] 11:51AM        <0.013
   Imaging: [**2151-10-29**] CT chest: Bilateral basal lung changes ,mostly related
   to aspiration.No other acute pathology detected
   .
   [**2151-10-29**] C-spine: no fractures.
   .
   [**2151-10-29**]: head CT: No acute intracranial hemorrhage, edema, masses, mass
   effect, or
   major vascular territorial infarction. The [**Doctor Last Name **]-white matter
   differentiation
   is well preserved. White matter hypodensities are noted in bifrontal
   white matter, consistent with chronic microangiopathic ischemic
   disease. The
   ventricles and sulcal spaces appear normal in caliber and
   configuration. The
   basal cisterns are widely patent.
   [**10-29**] - XRAY of pelvis - no actue fracture
   Microbiology: [**2151-10-29**] 11:00PM
   Report Comment:
   TUBE #4
   ANALYSIS
   WBC, CSF 0 #/uL
     CLEAR AND COLORLESS
   RBC, CSF 1* #/uL 0 - 0
   Polys 0 %
    34 CELL DIFFERENTIAL
   Lymphs 41 %
   Monocytes 56 %
   Atypical Lymphocytes 3 %
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   This is a  80 y.o. man found down, with elevated lactate and
   leukocytosis, hypertension, tremor, and intubated for airway
   protection.
   .
   # Altered mental status: was initially found down but was conscious,
   was able to murmur, and was found to have tremulous movements. urine
   and serum toxicology screens are negative.  CT head is negative for
   edema or acute infarct.  Elevated white count makes infection a
   possibility. Elevated lactate in absence of hypotension may indicate
   mycoclonic seizures. Will pursue neuro evaluation to rule out seizure.
   Lactate resolved, making seizure likely.
   -load with fosphenytoin 20mg/Kg tonight
   -fosphenytoin 100mg IV TID starting tomorrow.
   - d/c antibiotics for bacterial coverage given LP results.  continue
   acyclovir
   -Head MRI wihtout contrast given ARF
   -EEG
   -ativan PRN
   -telemetry
   -blood, urine, sputum Cx
   -neuro recs
   - taper sedation
   # Elevated troponins - With elevated CK, CKMB and troponins.  CKMB -I
   Negative.  Likely had an NSTEMI on the scene of the acident.  Continue
   to follow CE.
   - Statin, BB
   - holding ASA given coffee ground in suction,  will trend Hct and
   reasses
   - Cardiology aware
   #Lactic acidosis: in setting of hypertension makes septic shock
   unlikely. Has resolved with intubation and propofol. [**Month (only) 51**] potentially be
   from myoclonic activity given setting of tremulous movements.  Will pan
   culture and start empiric antibiotics.
   - f//u urine, blood, sputum cx.
   - continue acylovir
   # Leukocytosis: CBC Differential is pending.  [**Month (only) 51**] be infection vs.
   acute stress reaction from seizure.  No bands, again making bacterial
   infectin less likely.
   -trend cbc
   - acyclovir, add abx as cultures return
   - LP bland
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   .
   # Access: peripherals X2
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2151-10-29**] 04:33 PM
   18 Gauge - [**2151-10-29**] 04:35 PM
   20 Gauge - [**2151-10-29**] 07:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-10-30 09:30:00 Physician Attending Progress Note
Chief Complaint: Repiratory Failure, Loss of Consciousness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   LP done overnight
   Switched to PSV overnight
   24 Hour Events:
 INVASIVE VENTILATION - START [**2151-10-29**] 04:00 PM
 LUMBAR PUNCTURE - At [**2151-10-29**] 10:45 PM
 LUMBAR PUNCTURE - At [**2151-10-30**] 01:59 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2151-10-29**] 04:21 PM
   Levofloxacin - [**2151-10-29**] 05:02 PM
   Ceftriaxone - [**2151-10-30**] 06:55 AM
   Ampicillin - [**2151-10-30**] 08:16 AM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2151-10-30**] 04:45 AM
   Heparin Sodium (Prophylaxis) - [**2151-10-30**] 08:16 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: No(t) Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-10-30**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 75 (64 - 96) bpm
   BP: 112/69(79) {77/49(55) - 138/84(107)} mmHg
   RR: 9 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.6 kg (admission): 98.8 kg
             Total In:
                                                                  1,228 mL
                                                                  1,844 mL
   PO:
             TF:
   IVF:
                                                                  1,228 mL
                                                                  1,784 mL
   Blood products:
   Total out:
                                                                    565 mL
                                                                  1,230 mL
   Urine:
                                                                    565 mL
                                                                  1,130 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    663 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 500 (500 - 674) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 67
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.32/42/118/23/-4
   Ve: 9.5 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.2 g/dL
   202 K/uL
   108 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   28 mg/dL
   105 mEq/L
   137 mEq/L
   43.5 %
   12.0 K/uL
        [image002.jpg]
                             [**2151-10-29**]  05:47 PM
                             [**2151-10-29**]  06:24 PM
                            [**2151-10-30**]  03:06 AM
   WBC
   16.6
   12.0
   Hct
   44.6
   43.5
   Plt
   235
   202
   Cr
   1.2
   1.3
   TropT
   0.14
   0.27
   TCO2
   23
   Glucose
   146
   108
   Other labs: PT / PTT / INR:12.2/27.7/1.0, CK / CKMB /
   Troponin-T:451/18/0.27, Differential-Neuts:81.4 %, Lymph:9.0 %,
   Mono:7.7 %, Eos:1.4 %, Lactic Acid:1.4 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   Assessment and Plan: This is a  80 y.o. man found down, with elevated
   lactate and leukocytosis, hypertension, tremor, and intubated for
   airway protection.
   # Altered mental status: No studies at this point that shed light on
   the source.  Need head MRI, EEG.  Neuro following.  LP without WBCs.
   Cont anti-sz meds.
   #Lactic acidosis: Now improved
   #NSTEMI: Does have mildy elevated troponin likely in setting of
   demand.  EKG normal.  Cont to trend.  TTE
   #Respiratory Failure: Wean sedation and extubate.  Needs c-spine
   clinically cleared post-extubation
   Remainde3r of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2151-10-29**] 04:33 PM
   18 Gauge - [**2151-10-29**] 04:35 PM
   20 Gauge - [**2151-10-29**] 07:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Have found family through his cell phone -
   son is aware
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2151-10-31 05:55:00 Physician Resident Progress Note
Chief Complaint: This is a  72 y.o. man found down, with elevated
   lactate and leukocytosis, hypertension, tremor, and intubated for
   airway protection.  Now extubated, stable.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2151-10-30**] 12:00 PM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2151-10-30**]
   01:35 PM
   pt. combative and agitated got out of bed and was abusive to staff
   attempting to hit nurses. Bloody all over from pulling out IV and foley
   catheter may have been stepped on by him causing bloody
   drainage--irrigated with small improvement and Lido uroject used for
   pain.
   -extubated just after noon, no complications.  Mildly agitated,
   frustrated with Foley. Slightly groggy, but alert and responsive.
   -No cervical midline tenderness, C-collar removed.
   -At 1:30, the patient became increasingly combative with nurse, got up
   out of bed, pulled IV, took off his clothes.  Was taken back to bed
   without a fall, cleaned up, and calmed down.  No injuries other than
   bleeding from IV site, stopped with pressure.
   -During 1:30 episode the patient stepped on his Foley tubing, then
   complaining of pain at the base of the penis afterward.  Tried several
   times to flush Foley without success.
   -Foley was DC-ed, removed smoothly, with clot adhering to and
   completely obstructing the tip.  Moderate bleeding from urethral meatus
   after Foley removal.
   -Unable to pass 3-way catheter
 urology tried also without success.
   -Haldol 2.5 given with good effect - patient became more calm.
   -LP results back - 0 WBC, 1 RBC.  Antibiotics DC-[**Last Name (LF) **], [**First Name3 (LF) **] continue
   acyclovir for now.
   -patient's son arrived to hospital at 1900, did not know much about his
   medical history, other than that he has gout.  He also says he thinks
   that the patient has had a seizure before in the past.
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2151-10-29**] 05:02 PM
   Ceftriaxone - [**2151-10-30**] 06:55 AM
   Ampicillin - [**2151-10-30**] 02:00 PM
   Vancomycin - [**2151-10-30**] 04:00 PM
   Acyclovir - [**2151-10-31**] 04:24 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2151-10-30**] 09:29 PM
   Heparin Sodium (Prophylaxis) - [**2151-10-31**] 12:04 AM
   Fosphenytoin - [**2151-10-31**] 04:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-10-31**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 78 (73 - 102) bpm
   BP: 115/64(77) {98/46(64) - 176/119(131)} mmHg
   RR: 23 (7 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.6 kg (admission): 98.8 kg
             Total In:
                                                                  3,496 mL
                                                                    548 mL
   PO:
             TF:
   IVF:
                                                                  3,436 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  2,165 mL
                                                                      0 mL
   Urine:
                                                                  2,065 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,331 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (500 - 530) mL
   PS : 5 cmH2O
   RR (Set): 19
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 9.8 L/min
   Physical Examination
   Alert, oriented, calm, comfortable.  Very pleasant.
   Strength 5/5 in all extremities, CN intact.
   Lungs CTAB.
   RRR, no MRG.
   Abdomen soft, non-tender.
   Labs / Radiology
   206 K/uL
   13.0 g/dL
   99 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   19 mg/dL
   110 mEq/L
   144 mEq/L
   39.9 %
   10.1 K/uL
        [image002.jpg]
                             [**2151-10-29**]  05:47 PM
                             [**2151-10-29**]  06:24 PM
                            [**2151-10-30**]  03:06 AM
                            [**2151-10-30**]  03:00 PM
                            [**2151-10-31**]  04:15 AM
   WBC
   16.6
   12.0
   10.1
   Hct
   44.6
   43.5
   39.9
   Plt
   235
   202
   206
   Cr
   1.2
   1.3
   1.7
   1.6
   TropT
   0.14
   0.27
   0.15
   TCO2
   23
   Glucose
   146
   108
   142
   99
   Other labs: PT / PTT / INR:12.2/27.7/1.0, CK / CKMB /
   Troponin-T:391/12/0.15, Differential-Neuts:81.4 %, Lymph:9.0 %,
   Mono:7.7 %, Eos:1.4 %, Lactic Acid:1.4 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   This is a  72 y.o. man found down, with elevated lactate and
   leukocytosis, hypertension, tremor, and intubated for airway
   protection.  Agitated yesterday, but today completely calm, pleasant,
   reports feeling his usual self.
   .
   # Altered mental status: Most likely seizure given very high lactate,
   immediate resolution, no infectious signs.  Etiology for possible
   seizure unclear.
   -fosphenytoin 100mg IV TID
   - d/c antibiotics for bacterial coverage given LP results.  Will also
   stop acyclovir today.
   - Would like to get head MRI to further evaluate
 patient says today
   that he absolutely cannot tolerate a closed MRI.  Would consider
   possible open MRI as outpatient?
   -EEG ordered
 will discuss with neurology about management
   potentially get EEG, how to arrange outpatient workup vs further
   inpatient testing.
   -telemetry
   #Agitation:  After extubation was persistently agitated, with episodes
   of combativeness, aggression.  Appeared to be alert, but very angry and
   frustrated.  Haldol given, 2.5 mg with very good effect - much more
   calm without excessive sedation.  This morning completely calm,
   pleasant.  Remembers yesterday
s events, but apologized for behavior.
   #Foley trauma:  During period of agitation soon after extubation the
   patient stood up and in the process pulled on his Foley, causing pain
   and hematuria.  The catheter was flushed multiple times without
   clearing, obstruction felt during attempt.  Finally the catheter was
   removed, with moderate-sized clot adhering to and completely
   obstructing the tip.  Both the nurse and resident attempted to place
   3-way catheter, then urology also attempted without success.
   -moderate bleeding from meatus after Foley removal, but stopped now,
   urine clear.
   -no obstruction, urinating well.  Able to use urinal this morning, no
   incontinence.
   # Elevated troponins - With elevated CK, CKMB and troponins.  CKMB -I
   Negative.  Troponins trended, yesterday afternoon trending down.
   - Statin, BB
   -Hct reduced slightly today but stable - 40.
   #Lactic acidosis:. As above
 likely from seizure or seizure-like
   activity.  Empiric antibiotics now stopped, leukocytosis resolved,
   afebrile, no clear source.
   - f//u urine, blood, sputum cx.
   # Leukocytosis: Now resolved.  Likely acute stress reaction from
   possible seizure.  Could also be c/w infection, but no other indicators
   for infection.
   - cbc WNL today
   - acyclovir, add abx as cultures return
   - LP clear
   .
   # FEN: No IVF, replete electrolytes, regular diet today
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots
   .
   # Access: peripheral.
   .
   # Code: full
   .
   # Communication: wife, son.  The son came in yesterday evening,
   discussed with him.
   .
   # Disposition: to floor today.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2151-10-29**] 04:33 PM
   20 Gauge - [**2151-10-29**] 07:42 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  to floor

2151-10-31 09:45:00 Physician Attending Progress Note
Chief Complaint: ?Seizure, resolved respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Delirium/agitation has cleared significantly
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2151-10-30**] 12:00 PM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2151-10-30**]
   01:35 PM
   pt. combative and agitated got out of bed and was abusive to staff
   attempting to hit nurses. Bloody all over from pulling out IV and foley
   catheter may have been stepped on by him causing bloody
   drainage--irrigated with small improvement and Lido uroject used for
   pain.
   -->multiple attempts to place 3-way foley unsuccessful, but now able to
   void on his own
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2151-10-29**] 05:02 PM
   Ceftriaxone - [**2151-10-30**] 06:55 AM
   Ampicillin - [**2151-10-30**] 02:00 PM
   Vancomycin - [**2151-10-30**] 04:00 PM
   Acyclovir - [**2151-10-31**] 04:24 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2151-10-30**] 09:29 PM
   Fosphenytoin - [**2151-10-31**] 04:24 AM
   Heparin Sodium (Prophylaxis) - [**2151-10-31**] 08:00 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2151-10-31**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.6
   HR: 74 (74 - 102) bpm
   BP: 137/100(109) {98/46(64) - 176/119(131)} mmHg
   RR: 17 (7 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.6 kg (admission): 98.8 kg
             Total In:
                                                                  3,496 mL
                                                                    977 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  3,436 mL
                                                                    857 mL
   Blood products:
   Total out:
                                                                  2,165 mL
                                                                    200 mL
   Urine:
                                                                  2,065 mL
                                                                    200 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,331 mL
                                                                    777 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 530 (530 - 530) mL
   PS : 5 cmH2O
   RR (Set): 19
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///25/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   13.0 g/dL
   206 K/uL
   99 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   19 mg/dL
   110 mEq/L
   144 mEq/L
   39.9 %
   10.1 K/uL
        [image002.jpg]
                             [**2151-10-29**]  05:47 PM
                             [**2151-10-29**]  06:24 PM
                            [**2151-10-30**]  03:06 AM
                            [**2151-10-30**]  03:00 PM
                            [**2151-10-31**]  04:15 AM
   WBC
   16.6
   12.0
   10.1
   Hct
   44.6
   43.5
   39.9
   Plt
   235
   202
   206
   Cr
   1.2
   1.3
   1.7
   1.6
   TropT
   0.14
   0.27
   0.15
   TCO2
   23
   Glucose
   146
   108
   142
   99
   Other labs: PT / PTT / INR:12.2/27.7/1.0, CK / CKMB /
   Troponin-T:391/12/0.15, Differential-Neuts:81.4 %, Lymph:9.0 %,
   Mono:7.7 %, Eos:1.4 %, Lactic Acid:1.4 mmol/L, Ca++:8.4 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   Assessment and Plan: This is a  72 y.o. man found down, with elevated
   lactate and leukocytosis, hypertension, tremor, and intubated for
   airway protection.
   # Altered mental status: Now extubated and with normal mental status.
   Unclear why he lost consciousness - sz still seems to be most likely
   possibility.  Cont anti-sz meds.  Will need an MRI at some point - can
   potentially do as an outpatient given patient's claustraphobia.  EEG.
   Will discuss follow-up plans with neurology team.
   #NSTEMI: Troponins trending down.  TTE.
   #Respiratory Failure: Now extubated
   #Hematuria: No further bleeding, passing urine
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2151-10-29**] 04:33 PM
   20 Gauge - [**2151-10-29**] 07:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   Patient is critically ill